US05220000
Benzylmalononitrile
4.5 Grams of 4-nitrobenzylidenemalononitrile, prepared according to Example 1, was dissolved in 200 milliliters of ethylacetate. To this was added an aqueous solution of 0.54 gram of sodium borohydride in 5 milliliters of water, and the mixture was stirred at ambient temperature for 1/2 hour. The organic layer was separated, using a separatory funnel, and washed three times with water. The organic extract was dried over anhydrous sodium sulfate, and evaporated to dryness. The crude reaction product was crstallized from ethanol to obtain 3.07 grams(67.5% yield) of the product. IR(nujol) analysis showed bands at 3100, 2950-2850, 2250, 1980, 1595, 1505, 1450, 1440, 1370, 1340, 1290, 1175, 1100, 1010, 885, 860, 845, 755 and 710 cm-1. NMR analysis (CDCl3) showed signals at 8.30 (d, 2H, J=7.8 Hz), 7.56 (d, 2H, J=7.8 Hz), 4.05 (t, 1H, J=6.3 Hz) and 3.42 (d, 2H, J=6.3 Hz) ppm. Elemental analysis: C10H7N3O2 requires: C=59.7; H=3.48; N=20.90%. Found: C=59.62; H=3.39; N=20.81%.

reactant | 4-nitrobenzylidenemalononitrile | [N+](=O)([O-])C1=CC=C(C=C(C#N)C#N)C=C1 | C10H5N3O2
reactant | sodium borohydride | 0.54 gram | [BH4-].[Na+]
reactant | ethanol | C(C)O | C2H6O
solvent | ethylacetate | 200 milliliters | C(C)OC(C)=O | C4H8O2
solvent | water | 5 milliliters | O | H2O
product | Benzylmalononitrile | 3.07 grams, 67.5% yield | C(C1=CC=CC=C1)C(C#N)C#N | C10H8N2
